Hardware enable off, protected battery 2.7 V
Vbat pfet 0 2.7
R31 pfet sw_on 10k
R32 enable 0 100k
Rthrow enable 0 .1
.control
op
print v(enable) i(Vbat)
.endc
.end
