Hardware enable on, protected battery 3.0 V
Vbat pfet 0 3.0
R31 pfet sw_on 10k
R32 enable 0 100k
Rthrow sw_on enable .1
.control
op
print v(enable) i(Vbat)
.endc
.end
